US09403835B2
Step 2: 2-[(tert-butoxycarbonyl)(2-cyanoethyl)amino]-2-methylpropanoic acid
A 40% solution of benzyltrimethylammonium hydroxide in MeOH (12.85 g, 76.8 mmol) was added to a solution of 2-[(2-cyanoethyl)amino]-2-methylpropanoic acid (12 g, 76.8 mmol) in acetonitrile (700 mL) and the reaction mixture was stirred at room temperature for 1 hour. Di-tert-butyldicarbonate (33.6 g, 153.6 mmol) was added and the resulting mixture was stirred at room temperature for 3 days. The solvent was removed in vacuo and the residue taken up in water (200 mL). The aqueous solution was washed with Et2O (2×), the pH adjusted to 3.5 with citric acid and extracted with EA (2×). The combined organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo to afford the title compound (16.5 g, 84%) as a pale yellow liquid. 1H NMR (DMSO-d6) δ 3.52 (t, J=6.8 Hz, 2H), 2.69 (t, J=6.8 Hz, 2H), 1.40-1.37 (m, 15H).

reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | MeOH | 76.8 mmol, 12.85 g | CO | CH4O
reactant | 2-[(2-cyanoethyl)amino]-2-methylpropanoic acid | 76.8 mmol, 12 g | C(#N)CCNC(C(=O)O)(C)C | C7H12N2O2
reactant | Di-tert-butyldicarbonate | 153.6 mmol, 33.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 700 mL | C(C)#N | C2H3N
product | 2-[(tert-butoxycarbonyl)(2-cyanoethyl)amino]-2-methylpropanoic acid | 16.5 g, 84% | C(C)(C)(C)OC(=O)N(C(C(=O)O)(C)C)CCC#N | C12H20N2O4
